US04337256
Diphenyl disulfide was reacted with 1-(4-fluorophenyl)-5-methyl-3,4-dihydroisoquinoline in the same way as in step (c) of Example 1 to afford 1-(4-fluorophenyl)-5-methylisoquinoline as colorless needles having a melting point of 91° to 92° C.

reactant | Diphenyl disulfide | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | 1-(4-fluorophenyl)-5-methyl-3,4-dihydroisoquinoline | FC1=CC=C(C=C1)C1=NCCC2=C(C=CC=C12)C | C16H14FN
product | 1-(4-fluorophenyl)-5-methylisoquinoline | FC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)C | C16H12FN
